US05990346
To tetrakistriphenylphosphinepalladium prepared in advance in the system from tris(dibenzylideneacetone) dipalladium(0) (92 mg, 0.1 mmol) and triphenylphosphine (210 mg, 0.8 mmol) were added methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate 437 mg, 0.546 mmol) in 1,2-dichloroethane (5 mL) and 2M trimethylaluminum in hexane (0.423 mL, 0.846 mmol). This was agitated for 3 hours at room temperature. Ether was added to dilute the reaction solution, then the solution was poured in 1N hydrochloric acid. The desired product was extracted with ether from the mixture. The extract was washed with brine, then was dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure, then was purified by silica gel column chromotography (2% ethyl acetate/hexane) to obtain methyl (11R,12S,13E,15S,17R)-9-methyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (193 mg, 54%).

reactant | triphenylphosphine | 0.8 mmol, 210 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.546 mmol, 437 mg | FC(S(=O)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)(F)F | C35H65F3O7S2Si2
reactant | trimethylaluminum | 2M | C[Al](C)C
reactant | hexane | 0.846 mmol, 0.423 mL | CCCCCC | C6H14
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | hydrochloric acid | 1N | Cl | ClH
catalyst | tetrakistriphenylphosphinepalladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.1 mmol, 92 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | Ether | CCOCC | C4H10O
product | methyl (11R,12S,13E,15S,17R)-9-methyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 193 mg, 54% | CC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C35H68O4SSi2
